US07847101B2
4-Benzothiazol-2-yl-N5-(1H-imidazol-2-ylmethyl)-1H-pyrazole-3,5-diamine (610-52)
A mixture of 4-benzothiazol-2-yl-N5-(1H-imidazol-2-ylmethylene)-1H-pyrazole-3,5-diamine (13 mg, 0.042 mmol) and NaBH4 (10 mg) was stirred at room temperature for 3 hrs. The solvent was then evaporated and the residue was purified by flash column chromatography eluting with a gradient of CH2Cl2 to CH2Cl2:MeOH=4:1 to yield 12 mg (84%) of the title compound. MS (m/z, ES+): 312.1 (M+1, 80%), 232.1 (100%).

reactant | 4-benzothiazol-2-yl-N5-(1H-imidazol-2-ylmethylene)-1H-pyrazole-3,5-diamine | 0.042 mmol, 13 mg | S1C(=NC2=C1C=CC=C2)C=2C(=NNC2N=CC=2NC=CN2)N | C14H11N7S
reactant | NaBH4 | 10 mg | [BH4-].[Na+]
product | 4-Benzothiazol-2-yl-N5-(1H-imidazol-2-ylmethyl)-1H-pyrazole-3,5-diamine | 12 mg, 84% | S1C(=NC2=C1C=CC=C2)C=2C(=NNC2NCC=2NC=CN2)N | C14H13N7S
